US05151534
Preparation of methyl 3,3-dioxo-3-thia-5,8,11-eicosatriynoate
A solution of 1 g of 3,3-dioxo-3-thia-5,8,11-eicosatriynoic acid in 50 cm3 of methanol is heated under reflux in the presence of a sulfuric acid catalyst for 48 hours. The mixture is then filtered at ambient temperature. The methanol is evaporated off under reduced pressure.

reactant | 3,3-dioxo-3-thia-5,8,11-eicosatriynoic acid | 1 g | O=S(CC(=O)O)(CC#CCC#CCC#CCCCCCCCC)=O | C19H26O4S
reactant | methanol | 50 cm3 | CO | CH4O
catalyst | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | methyl 3,3-dioxo-3-thia-5,8,11-eicosatriynoate | O=S(CC(=O)OC)(CC#CCC#CCC#CCCCCCCCC)=O | C20H28O4S
